US05055469
Synthesis of 4-acetylamino-1-[2-oxo-2-[[2-(phenylamino)phenyl]amino]ethyl]pyridinium chloride
Dissolved in 30 ml of chloroform are 6.2 g of 2-chloro-N-[2-(phenylamino)phenyl]acetamide and 5.0 g of 4-acetylaminopyridine, and the solution is left on standing overnight. After completion of the reaction, the reaction mixture is held at 5° C. to 10° C., and left on standing at the same temperature for 5 hours. The precipitates, which separate out, are recovered by filtration and recrystallized from ethanol to give the desired compound of 4-acetylamino-1-[2-oxo-2-[[2-(phenylamino)phenyl]amino]ethyl]pyridinium chloride.

reactant | 2-chloro-N-[2-(phenylamino)phenyl]acetamide | 6.2 g | ClCC(=O)NC1=C(C=CC=C1)NC1=CC=CC=C1 | C14H13ClN2O
reactant | 4-acetylaminopyridine | 5.0 g | C(C)(=O)NC1=CC=NC=C1 | C7H8N2O
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-acetylamino-1-[2-oxo-2-[[2-(phenylamino)phenyl]amino]ethyl]pyridinium chloride | [Cl-].C(C)(=O)NC1=CC=[N+](C=C1)CC(NC1=C(C=CC=C1)NC1=CC=CC=C1)=O | InChI=1S/C21H20N4O2.ClH/c1-16(26)22-18-11-13-25(14-12-18)15-21(27)24-20-10-6-5-9-19(20)23-17-7-3-2-4-8-17;/h2-14,23H,15H2,1H3,(H,24,27);1H
